US05091394
4-Chloro-3-sulfamoylbenzoylguanidine hydrochloride
8.5 g of guanidine hydrochloride and then 5 g of methyl 4-chloro-3-sulfamoylbenzoate are added to a methanolic sodium methoxide solution, prepared from 1.9 g of sodium in 90 ml of methanol. After heating this mixture to 50°-60° C. under inert gas (nitrogen or argon) over the course of 30 hours, the solvent is removed by distillation, the solution is adjusted to pH 6 after taking up the residue with 2 N acetic acid and is extracted with ethyl acetate. After acidifying the dried extract (drying over magnesium sulfate) using ethereal hydrochloric acid, the title compound is filtered off.

reactant | guanidine hydrochloride | 8.5 g | Cl.NC(=N)N
reactant | methyl 4-chloro-3-sulfamoylbenzoate | 5 g | ClC1=C(C=C(C(=O)OC)C=C1)S(N)(=O)=O | C8H8ClNO4S
reactant | sodium methoxide | C[O-].[Na+]
reactant | sodium | 1.9 g | [Na] | Na
solvent | methanol | 90 ml | CO | CH4O
product | 4-Chloro-3-sulfamoylbenzoylguanidine hydrochloride | Cl.ClC1=C(C=C(C(=O)NC(=N)N)C=C1)S(N)(=O)=O | InChI=1S/C8H9ClN4O3S.ClH/c9-5-2-1-4(7(14)13-8(10)11)3-6(5)17(12,15)16;/h1-3H,(H2,12,15,16)(H4,10,11,13,14);1H
